US04518596
8-Methylthio-2-piperazino-4-thiomorpholino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 2 from 2-chloro-8-methylthio-4-thiomorpholino-pyrimido-[5,4-d]-pyrimidine (m.p.: 165°-167° C.) and piperazine at room temperature.

reactant | 2-chloro-8-methylthio-4-thiomorpholino-pyrimido-[5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)SC)N2CCSCC2 | C11H12ClN5S2
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-Methylthio-2-piperazino-4-thiomorpholino-pyrimido-[5,4-d]-pyrimidine | CSC1=NC=NC2=C1N=C(N=C2N2CCSCC2)N2CCNCC2 | C15H21N7S2
